datasets/RMG-dataset.csv
rxn,Ea
[C:0](#[C:1][C:2]([H:4])[H:5])[H:3].[C:6]([C:7]([C:8]([H:15])([H:16])[H:17])([C:9](=[S:10])[H:18])[H:14])([H:11])([H:12])[H:13]>>[C:0](#[C:1][C:2]([H:4])([H:5])[H:14])[H:3].[C:6]([C:7]([C:8]([H:15])([H:16])[H:17])[C:9](=[S:10])[H:18])([H:11])([H:12])[H:13],69.1197
[C:0]([C:1]([C:2]([C:3]([C:4]([C:5]([C:6]([H:19])([H:20])[H:21])([H:17])[H:18])([H:15])[H:16])([H:13])[H:14])([H:11])[H:12])([H:9])[H:10])([H:7])[H:8].[O:22][H:23]>>[C:0](=[C:1]([C:2]([C:3]([C:4]([C:5]([C:6]([H:19])([H:20])[H:21])([H:17])[H:18])([H:15])[H:16])([H:13])[H:14])([H:11])[H:12])[H:10])([H:7])[H:8].[H:9][O:22][H:23],0.0
[C:8](=[S:9])[H:10].[S:0]=[C:1]([C:2]([S:3][H:7])([H:5])[H:6])[H:4]>>[H:5][C:8](=[S:9])[H:10].[S:0]=[C:1]([C:2]([S:3][H:7])[H:6])[H:4],37.656
[C:0](=[C:1]([C:2](=[C:3]([C:4]([H:11])([H:12])[H:13])[C:5](=[C:6]([H:15])[H:16])[H:14])[H:10])[H:9])([H:7])[H:8].[C:17](=[C:18]([C:19]([C:20]([H:25])([H:26])[H:27])[H:24])[H:23])([H:21])[H:22]>>[C:0](=[C:1]([C:2]([C:3]([C:4]([H:11])([H:12])[H:13])([C:5](=[C:6]([H:15])[H:16])[H:14])[C:19]([C:18](=[C:17]([H:21])[H:22])[H:23])([C:20]([H:25])([H:26])[H:27])[H:24])[H:10])[H:9])([H:7])[H:8],46.3169
[C:0](=[C:1]([C:2]([H:6])([H:7])[H:8])[H:5])([H:3])[H:4].[O:9][H:10]>>[C:0](=[C:1]([C:2]([H:6])([H:7])[H:8])[H:5])[H:4].[H:3][O:9][H:10],10.468368
[C:0](=[C:1]([C:2](=[C:3]([C:4]([H:10])([H:11])[H:12])[H:9])[H:8])[H:7])([H:5])[H:6].[C:13](=[C:14]([C:15]([C:16](=[C:17]([H:23])[H:24])[H:22])[H:21])[H:20])([H:18])[H:19]>>[C:0](=[C:1]([C:2]([C:3]([C:4]([H:10])([H:11])[H:12])[H:9])([H:8])[C:15]([C:14](=[C:13]([H:18])[H:19])[H:20])([C:16](=[C:17]([H:23])[H:24])[H:22])[H:21])[H:7])([H:5])[H:6],73.5966
[C:0]([C:1]([C:2]([C:3]([C:4]([H:13])([H:14])[H:15])([H:11])[H:12])([H:9])[H:10])([H:7])[H:8])([H:5])[H:6].[H:16]>>[C:0](=[C:1]([C:2]([C:3]([C:4]([H:13])([H:14])[H:15])([H:11])[H:12])([H:9])[H:10])[H:8])([H:5])[H:6].[H:7][H:16],0.0
[C:0](#[C:1][C:2]([C:3]([H:12])([H:13])[H:14])=[C:4]([c:5]1[c:6]([H:16])[c:7]([H:17])[c:8]([H:18])[c:9]([H:19])[c:10]1[H:20])[H:15])[H:11].[c:21]1[c:22]([H:27])[c:23]([H:28])[c:24]([H:29])[c:25]([H:30])[c:26]1[H:31]>>[C:0](#[C:1][C:2]([C:3]([H:12])([H:13])[H:14])[C:4]([c:5]1[c:6]([H:16])[c:7]([H:17])[c:8]([H:18])[c:9]([H:19])[c:10]1[H:20])([H:15])[c:21]1[c:22]([H:27])[c:23]([H:28])[c:24]([H:29])[c:25]([H:30])[c:26]1[H:31])[H:11],-4.26768
[C:0](=[C:1]=[C:2]([C:3]([H:7])([H:8])[H:9])[H:6])([H:4])[H:5].[C:10]([C:11]([C:12]([H:17])([H:18])[H:19])[C:13]([H:20])([H:21])[H:22])([H:14])([H:15])[H:16]>>[C:0](=[C:1]([C:2]([C:3]([H:7])([H:8])[H:9])[H:6])[C:11]([C:10]([H:14])([H:15])[H:16])([C:12]([H:17])([H:18])[H:19])[C:13]([H:20])([H:21])[H:22])([H:4])[H:5],14.895
[C:0](#[C:1][C:2]([C:3]([H:6])([H:7])[H:8])[H:5])[H:4].[C:9](=[C:10]([C:11]([C:12](=[C:13]([H:20])[H:21])[H:19])=[C:14]([C:15]([H:23])([H:24])[H:25])[H:22])[H:18])([H:16])[H:17]>>[C:0](#[C:1][C:2]([C:3]([H:6])([H:7])[H:8])([H:5])[C:11]([C:10](=[C:9]([H:16])[H:17])[H:18])([C:12](=[C:13]([H:20])[H:21])[H:19])[C:14]([C:15]([H:23])([H:24])[H:25])[H:22])[H:4],46.5261
[C:0]([C:1]([O:2][H:8])([S:3])[H:7])([H:4])([H:5])[H:6]>>[C:0]([H:4])([H:5])[H:6].[C:1]([O:2][H:8])(=[S:3])[H:7],125.1016
[C:0](#[C:1][C:2](=[C:3]([C:4](=[C:5]([H:11])[H:12])[H:10])[C:6](=[C:7]([H:14])[H:15])[H:13])[H:9])[H:8].[C:16](=[C:17]([H:19])[H:20])[H:18]>>[C:0](#[C:1][C:2]([C:3]([C:4](=[C:5]([H:11])[H:12])[H:10])[C:6](=[C:7]([H:14])[H:15])[H:13])([H:9])[C:16](=[C:17]([H:19])[H:20])[H:18])[H:8],-7.36384
[C:0](#[C:1][C:2](=[C:3]([C:4]([H:8])([H:9])[H:10])[H:7])[H:6])[H:5].[C:11]([C:12]([C:13]([H:23])([H:24])[H:25])[c:14]1[c:15]([H:26])[c:16]([H:27])[c:17]([H:28])[c:18]([H:29])[c:19]1[H:30])([H:20])([H:21])[H:22]>>[C:0](#[C:1][C:2]([C:3]([C:4]([H:8])([H:9])[H:10])[H:7])([H:6])[C:12]([C:11]([H:20])([H:21])[H:22])([C:13]([H:23])([H:24])[H:25])[c:14]1[c:15]([H:26])[c:16]([H:27])[c:17]([H:28])[c:18]([H:29])[c:19]1[H:30])[H:5],37.2794
[c:1]1([H:3])[c:4]([H:5])[c:6]([H:7])[c:8]([C:9](=[C:10]([C:11]#[C:12][H:13])[H:14])[H:15])[c:16][c:17]1[H:19]>>[c:1]1[c:4]([H:5])[c:6]([H:7])[c:8]2[c:9]([H:15])[c:10]([H:14])[c:11]([H:3])[c:17]([H:19])[c:16]2[c:12]1[H:13],244.077824
[C:0]([C:1]([C:2]([H:8])([H:9])[H:10])([O:3][H:11])[H:7])([H:4])([H:5])[H:6].[C:12]([H:13])([H:14])[H:15]>>[C:0]([C:1]([C:2]([H:8])([H:9])[H:10])([O:3][H:11])[H:7])([H:5])[H:6].[H:4][C:12]([H:13])([H:14])[H:15],46.2332
[C:0](#[C:1][C:2](=[C:3]([H:6])[H:7])[H:5])[H:4].[C:8](=[C:9]([C:10]([C:11](=[C:12]([H:18])[H:19])[H:17])[H:16])[H:15])([H:13])[H:14]>>[C:0](#[C:1][C:2]=[C:3]([H:6])[H:7])[H:4].[H:5][C:10]([C:9](=[C:8]([H:13])[H:14])[H:15])([C:11](=[C:12]([H:18])[H:19])[H:17])[H:16],143.218
[C:0]([C:1]([C:2]([H:9])([H:10])[H:11])=[C:3]([C:4]([H:12])([H:13])[H:14])[C:5]([H:15])([H:16])[H:17])([H:6])([H:7])[H:8].[C:18]([C:19](=[C:20]([H:24])[H:25])[H:23])([H:21])[H:22]>>[C:0]([C:1]([C:2]([H:9])([H:10])[H:11])([C:3]([C:4]([H:12])([H:13])[H:14])[C:5]([H:15])([H:16])[H:17])[C:18]([C:19](=[C:20]([H:24])[H:25])[H:23])([H:21])[H:22])([H:6])([H:7])[H:8],57.0279
